US07132443B2
A. Methyl (2R)-2-[(tert-butoxycarbonyl)amino]-3-methyl-3-[(2-phenylethyl)thio]butanoate.
To a CH3CN (50 mL) solution containing methyl (2R)-2-[(tert-butoxycarbonyl)amino]-3-mercapto-3-methylbutanoate (as described above) (1.26 g, 4.78 mmol, 1.0 eq) was added sodium tert-butoxide (597 mg, 6.21 mmol, 1.3 eq). The resulting pale yellow mixture was allowed to stir at RT for 10 min at which time (2-bromoethyl)benzene (718 μL, 5.26 mmol, 1.1 eq) was added. The resulting solution was allowed to stir at RT for 18 hr. The reaction was then quenched with a sat NH4Cl solution, poured into H2O, and extracted (2×) with EtOAc. Combined extracts were dried over MgSO4 and concentrated in vacuo. Purified via flash chromatography using 5:1 hexanes/EtOAc as the mobile phase. Isolated 761 mg (2.07 mmol, 45% yield).

reactant | methyl (2R)-2-[(tert-butoxycarbonyl)amino]-3-mercapto-3-methylbutanoate | 4.78 mmol, 1.26 g, 1.0 eq | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)C(C)(C)S | C11H21NO4S
reactant | sodium tert-butoxide | 6.21 mmol, 597 mg, 1.3 eq | CC(C)([O-])C.[Na+]
reactant | (2-bromoethyl)benzene | 5.26 mmol, 718 μL, 1.1 eq | BrCCC1=CC=CC=C1 | C8H9Br
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | Methyl (2R)-2-[(tert-butoxycarbonyl)amino]-3-methyl-3-[(2-phenylethyl)thio]butanoate | 45% yield | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)C(C)(SCCC1=CC=CC=C1)C | C19H29NO4S
